US07291642B2
Analogously to 13b), 4-[(2,3-dichlorobenzenesulphonyl)methylamino]-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-ethylbutyramide was prepared from 0.74 g (1.53 mmol) of N-[2-(4-cyanophenyl)ethyl]-4-[(2,3-dichlorobenzenesulphonyl)methylamino]-N-ethylbutyramide, a spatula tip of sulphur and 5 ml of ethylenediamine.

reactant | N-[2-(4-cyanophenyl)ethyl]-4-[(2,3-dichlorobenzenesulphonyl)methylamino]-N-ethylbutyramide | 1.53 mmol, 0.74 g | C(#N)C1=CC=C(C=C1)CCN(C(CCCNCS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)=O)CC | C22H25Cl2N3O3S
reactant | sulphur | [S] | S
reactant | ethylenediamine | 5 ml | C(CN)N | C2H8N2
product | 4-[(2,3-dichlorobenzenesulphonyl)methylamino]-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-ethylbutyramide | ClC1=C(C=CC=C1Cl)S(=O)(=O)CNCCCC(=O)N(CC)CCC1=CC=C(C=C1)C=1NCCN1 | C24H30Cl2N4O3S
